US09238640B2
4-(2-Hydroxyethoxy)-3,5-dimethylbenzaldehyde (0.70 g, 3.58 mmol), 2-amino-6-chlorobenzamide (0.60 g, 3.51 mmol), sodium bisulfite (0.71 g, 3.86 mmol) and p-toluenesulfonic acid monohydrate (0.133 g, 0.699 mmol) in anhydrous N,N-dimethyl acetamide (14 mL) were heated at 120° C. under nitrogen for 23 hours. The solvent was evaporated and the white solid was triturated with water (50 mL), filtered, and washed with water (20 mL). The solid was dried in vacuo and triturated with Et2O (20 mL), filtered, and dried to give 5-chloro-2-(4-(2-hydroxyethoxy)-3,5-dimethylphenyl)quinazolin-4(3H)-one as a white solid. Yield: 0.77 g, (64%).

reactant | 4-(2-Hydroxyethoxy)-3,5-dimethylbenzaldehyde | 3.58 mmol, 0.70 g | OCCOC1=C(C=C(C=O)C=C1C)C | C11H14O3
reactant | 2-amino-6-chlorobenzamide | 3.51 mmol, 0.60 g | NC1=C(C(=O)N)C(=CC=C1)Cl | C7H7ClN2O
reactant | sodium bisulfite | 3.86 mmol, 0.71 g | S([O-])(O)=O.[Na+]
reactant | p-toluenesulfonic acid monohydrate | 0.699 mmol, 0.133 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | N,N-dimethyl acetamide | 14 mL | CN(C(C)=O)C | C4H9NO
product | 5-chloro-2-(4-(2-hydroxyethoxy)-3,5-dimethylphenyl)quinazolin-4(3H)-one | ClC1=C2C(NC(=NC2=CC=C1)C1=CC(=C(C(=C1)C)OCCO)C)=O | C18H17ClN2O3
